US04929622
To a stirred slurry of 11.35 g of lithium aluminum hydride and 700 ml of tetrahydrofuran, cooled to 0° C. under nitrogen, was added, via cannula, a solution of 8.50 g of 1,2,3,4,5,6-hexahydro-3,6,12-trimethyl-2,6-methanopyrrolo[2,3-j][3]benzazocine-10,11(9H)-dione. The reaction mixture was refluxed for 3 hours, cooled to 0° C., and quenched with 10% aqueous tetrahydrofuran. The aqueous mixture was then dried over anhydrous sodium sulfate, filtered, and concentrated. The concentrate was purified by means of flash chromatography (silica gel; 2% triethylamine/0-3% methanol/ethyl acetate) to yield 2.70 g (35%) of 1,2,3,4,5,6-hexahydro-3,6,12-trimethyl-2,6-methano-9H-pyrrolo[2,3-j][3]benzazocine.

reactant | lithium aluminum hydride | 11.35 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 1,2,3,4,5,6-hexahydro-3,6,12-trimethyl-2,6-methanopyrrolo[2,3-j][3]benzazocine-10,11(9H)-dione | 8.50 g | CN1C2CC3=C1CCC=1C(C=CNC(C(C13)=O)=O)(C2C)C | C17H20N2O2
solvent | tetrahydrofuran | 700 ml | O1CCCC1 | C4H8O
product | 1,2,3,4,5,6-hexahydro-3,6,12-trimethyl-2,6-methano-9H-pyrrolo[2,3-j][3]benzazocine | 2.70 g, 35% | CN1C2CC3=C1CCC=1C(C=CNC=CC13)(C2C)C | C17H22N2
